US20010029037A1
A culture medium containing 5 g/l succinic acid, 10 g/l casamino acid, 3 g/l powdered yeast extract, 60 ml/l corn steep liquor, 5 g/l L-tryptophan, 5 g/l K2HPO4, 0.5 g/l MgSO4, 7H2O, 0.01 g/l FeSO4.7H2O, 0.01 g/l MnSO4.4H2O, and 50 g/l Triton X100, pH 7.0, was divided into 50 ml portions in a 500 ml Sakaguchi flask and sterilized at 120° C. for 10 minutes. After cooling, an appropriate inoculum, such as one platinum spoon, of each microorganism shown in Table 1 which had been cultured on a bouillon agar plate at 30° C. for 24 hours was inoculated into the above medium in a 500 ml Sakaguchi flask under aerobic shaking at 30° C. for 16 hours. After subsequent centrifugation (18,000×g for 10 minutes), the bacteria were collected and suspended in water, to prepare a 5 ml cell suspension. A 50 ml of solution containing 80 mg/ml sodium pyruvate, 80 mg/l ammonium acetate, 8 mg/ml sodium sulfite and 0.2 mg/ml pyridoxal 5′-phosphate was adjusted to pH 8.8, using potassium hydroxide solution, to adjust the final volume to 80 ml (substrate solution A). Subsequently, each 1 ml of cell suspension was added to the 8 ml of substrate solution A, to which was added 1 ml of a 200 mg/ml solution containing 5-fluoroindole dissolved in methanol, for incubation at 37° C. After 24-hour reaction, the reaction was stopped with boiling for 5 minutes. The amount of 5-fluoro-L-tryptophan produced in the reaction solution is shown in Table 1.

reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
reactant | sodium pyruvate | C(C(=O)C)(=O)[O-].[Na+]
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridoxal 5′-phosphate | CC1=NC=C(C(=C1O)C=O)COP(=O)(O)O | C8H10NO6P
reactant | potassium hydroxide | [OH-].[K+]
reactant | 5-fluoroindole | FC=1C=C2C=CNC2=CC1 | C8H6FN
solvent | methanol | CO | CH4O
product | 5-fluoro-L-tryptophan | FC1=CC=C2NC=C(C[C@H](N)C(=O)O)C2=C1 | C11H11FN2O2
